US04317920
To a solution of 24.5 g. of 2-methane-sulphonyloxy-hydratropic acid in 200 ml. of methanol 28 ml. of triethyl amine and 2 g. of a 5% palladium-on-charcoal catalyst are added. The mixture is hydrogenated at 25° C., under atmospheric pressure until a calculated amount of hydrogen is used up. The catalyst is filtered off and the filtrate is evaporated. The residue is taken up in water and acidified with a 20% aqueous hydrochloric acid solution. The separated hydratropic acid is extracted with chloroform. The chloroform solution is dried over sodium sulphate, evaporated and the residue is distilled off. 13.5 g. (90%) of hydratropic acid are obtained, boiling at 145° C. (13 mmHg.); nD25 =1.5219.

reactant | 2-methane-sulphonyloxy-hydratropic acid | CS(=O)(=O)OC1=C(C(C(=O)O)C)C=CC=C1 | C10H12O5S
reactant | methanol | 28 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | hydratropic acid | 90% | C(C(C)C1=CC=CC=C1)(=O)O | C9H10O2
